US08871753B2
Step D: N-(3-Aminobenzyl)-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine
To a solution of N-(2,5-dichloropyrimidin-4-yl)-N′-(3-nitrobenzyl)benzene-1,3-diamine (2.00 g, 5.12 mmol) in methanol (30 mL) was added 10% palladium on carbon (200 mg, 0.2 mmol). The resultant mixture was hydrogenated at 25 psi for 18 h. The reaction mixture was filtered, washed with MeOH and concentrated to give the desired product (1.72 g, 93%) as a light yellow powder. LCMS for C17H16Cl2N5 (M+H)+: m/z=360.2.

reactant | N-(2,5-dichloropyrimidin-4-yl)-N′-(3-nitrobenzyl)benzene-1,3-diamine | 5.12 mmol, 2.00 g | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)NCC1=CC(=CC=C1)[N+](=O)[O-])Cl | C17H13Cl2N5O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 0.2 mmol, 200 mg | [Pd] | Pd
product | N-(3-Aminobenzyl)-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine | 1.72 g, 93% | NC=1C=C(CNC2=CC(=CC=C2)NC2=NC(=NC=C2Cl)Cl)C=CC1 | C17H15Cl2N5
